US04456757
In 50 ml of a chloroform solution containing 1.4 g of 3-dimethylaminopropylamine and 1.4 g of triethylamine was added dropwise 30 ml of a chloroform solution containing 2.6 g of 5-isoquinolinesulfonyl chloride under cooling with ice. After the dropwise addition of the chloroform solution, the mixed solution was stirred at a temperature of 2° C. to 10° C. for four hours, and the reaction mixture solution was washed with water and dried with anhydrous magnesium sulfate. After the chloroform was distilled therefrom, the residue obtained was subjected to a silica gel column chromatography (silica gel: 70 g; solvent: chloroform) to give 2.38 g of N-(3-dimethylaminopropyl)-5-isoquinolinesulfonamide, i.e., Compound (17) in a yield of 71%.

reactant | 3-dimethylaminopropylamine | 1.4 g | CN(CCCN)C | C5H14N2
reactant | triethylamine | 1.4 g | C(C)N(CC)CC | C6H15N
reactant | 5-isoquinolinesulfonyl chloride | 2.6 g | C1=NC=CC=2C(=CC=CC12)S(=O)(=O)Cl | C9H6ClNO2S
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(3-dimethylaminopropyl)-5-isoquinolinesulfonamide | 2.38 g, yield of 71% | CN(CCCNS(=O)(=O)C=1C=2C=CN=CC2C=CC1)C | C14H19N3O2S
